US04092311
Ethyl 3-[6-(m-cyanophenyl)-5-methyl-3-pyridazinyl]carbazate
A solution of 2.87 g. of ethyl 3-[6-(m-aminophenyl)-5-methyl-3-pyridazinyl]carbazate, 80 ml. of water, 10 ml. of concentrated hydrochloric acid is stirred at 0° and a solution of 0.76 g. of sodium nitrite in 10 ml. of water added dropwise over 10 minutes. After stirring for 15 minutes, the cold solution is added dropwise to a cold solution of 2.5 g. of cuprous cyanide, 2.27 g. of potassium cyanide, 50 ml. of water and 35 ml. of toluene. After stirring at 0° for 1 hour and at room temperature overnight, the mixture is filtered and the solid washed with water to give 4.3 g. of gray crystals. Purification gives product as crystals, m.p. 189°-190° C.

reactant | ethyl 3-[6-(m-aminophenyl)-5-methyl-3-pyridazinyl]carbazate | NC=1C=C(C=CC1)C1=C(C=C(N=N1)NNC(=O)OCC)C | C14H17N5O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | potassium cyanide | [C-]#N.[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | Ethyl 3-[6-(m-cyanophenyl)-5-methyl-3-pyridazinyl]carbazate | C(#N)C=1C=C(C=CC1)C1=C(C=C(N=N1)NNC(=O)OCC)C | C15H15N5O2
